US04672066
6-(4-Acetyl-3-hydroxy-2-propylphenoxy)hexanoic acid was allowed to react with 5-pyrimidine butanamine according to procedure A and the product was purified by crystallization from carbon tetrachloride to give 6-(4-acetyl-3-hydroxy-2-propylphenoxy)-N-[4-(5-pyrimidinyl)-butyl]hexanamide, the title compound mp 87°-89°, in 73% yield.

reactant | 6-(4-Acetyl-3-hydroxy-2-propylphenoxy)hexanoic acid | C(C)(=O)C1=C(C(=C(OCCCCCC(=O)O)C=C1)CCC)O | C17H24O5
reactant | 5-pyrimidine butanamine | N1=CN=CC(=C1)CCCCN | C8H13N3
product | 6-(4-acetyl-3-hydroxy-2-propylphenoxy)-N-[4-(5-pyrimidinyl)-butyl]hexanamide | C(C)(=O)C1=C(C(=C(OCCCCCC(=O)NCCCCC=2C=NC=NC2)C=C1)CCC)O | C25H35N3O4
